US05364871
A mixture of 6-chloromethyl-2-pyridinecarbonitrile (2.75 g) and potassium phthalimide (3.35 g) in N,N-dimethylformamide (27.5 ml) was stirred at ambient temperature for 4 hours. After the solvent was evaporated in vacuo, water (50 ml) was added to the residue and the resulting precipitate was collected by filtration to give 6-phthalimidomethyl-2-pyridinecarbonitrile (4.60 g).

reactant | 6-chloromethyl-2-pyridinecarbonitrile | 2.75 g | ClCC1=CC=CC(=N1)C#N | C7H5ClN2
reactant | potassium phthalimide | 3.35 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylformamide | 27.5 ml | CN(C=O)C | C3H7NO
product | 6-phthalimidomethyl-2-pyridinecarbonitrile | 4.60 g | C1(C=2C(C(N1CC1=CC=CC(=N1)C#N)=O)=CC=CC2)=O | C15H9N3O2
